US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-1H-imidazo[4,5-c]quinoline (5.80 g, 17.1 mmol) by reaction with m-CPBA (7.5 g) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-5-oxido-1H-imidazo[4,5-c]quinoline followed by reaction with p-toluenesulfonyl chloride (5.7 g, 30 mmol) and ammonium hydroxide solution (150 mL) to provide 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine as a light brown solid after recrystallization from a mixture of acetonitrile, methanol, and water, mp 209-211° C.

reactant | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-1H-imidazo[4,5-c]quinoline | 17.1 mmol, 5.80 g | CC(CN1C(=NC=2C=NC=3C=CC=CC3C21)C)(CC2(OCCO2)C)C | C20H25N3O2
reactant | m-CPBA | 7.5 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-5-oxido-1H-imidazo[4,5-c]quinoline | CC(CN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])C)(CC2(OCCO2)C)C | C20H25N3O3
